US07141583B2
4-(4-Amino-2,6-difluoro-phenyl)-tetrahydro-thiopyran-4-o1
3,5-Difluoroaniline (12.9 g, 0.1 M) in dry tetrahydrofuran (400 ml) was stirred and cooled under nitrogen to −78°. n-Butyllithium (1.6M in hexanes, 131 ml, 0.21 M) was run in slowly over 15 minutes, maintaining the temperature below −65°. Stirring was continued at the same temperature for 30 minutes, then trimethylsilyl chloride (22.8 g, 0.21 M) in tetrahydrofuran (100 ml) was added dropwise over 15 minutes. The temperature was then allowed to rise to ambient, and the mixture stirred overnight. After recooling to −78°, further n-butyllithium (1.6M in hexanes, 68.8 ml, 0.11 M) was added dropwise below −70°, and stirring continued for 5 hours to form anion. A solution of tetrahydrothiopyran-4-one (12.5 g, 0.107 M) in tetrahydrofuran (80 ml) was added dropwise, keeping the temperature below −70°, and the temperature allowed to warm to ambient overnight. The mixture was cooled in an ice-bath and acidified to pH<1 by slow addition of hydrochloric acid (1M, ˜500 ml). After stirring 15 minutes, diethyl ether (1 L) was added, and the phases separated. The organic layer was washed with hydrochloric acid (1M, 200 ml), and the combined aqueous layers made basic with concentrated ammonia solution, then extracted with diethyl ether (600 ml). The extract was washed with water (100 ml), brine (100 ml), dried (magnesium sulfate) and evaporated. After dissolving the residue in dichloromethane, the desired product was precipitated by the addition of isohexane (17.4 g). MS (Negative ES): 244 (M—H—) for C11H13F2NOS

reactant | 3,5-Difluoroaniline | 0.1 M, 12.9 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | n-Butyllithium | 1.6M, 131 ml | C(CCC)[Li]
reactant | trimethylsilyl chloride | 0.21 M, 22.8 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 1.6M, 68.8 ml | C(CCC)[Li]
reactant | tetrahydrothiopyran-4-one | 0.107 M, 12.5 g | S1CCC(CC1)=O | C5H8OS
reactant | hydrochloric acid | 1M, ˜500 ml | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
product | 4-(4-Amino-2,6-difluoro-phenyl)-tetrahydro-thiopyran-4-o1 | NC1=CC(=C(C(=C1)F)C1(CCSCC1)O)F | C11H13F2NOS
